US07951956B2
2,4-Diethoxycarbonyl-3,5-dimethylpyrrole (2.0 g) was dissolved in ethanol (20 ml), and a 1 N sodium hydroxide solution (20 ml) was added and stirred overnight at 80° C. After cooling to room temperature, the reaction mixture was neutralized with a hydrochloric acid solution. The precipitate was collected by filtration, and dried in vacuo. The obtained solid was dissolved in trifluoroacetic acid (20 ml), and stirred for 1 hour at 40° C. While cooling with ice, triethyl orthoformate (2.5 ml) was slowly added dropwise to the reaction mixture. The mixture was allowed to room temperature, and then stirred for 2 hours. The resultant was concentrated at reduced pressure. The residue was added to a saturated sodium hydrogencarbonate and stirred, and then the precipitate was collected by filtration. The obtained solid was purified using medium pressure silica gel flash column chromatography (hexane:ethyl acetate=5:1 to 1:1), and dried in vacuo to afford 5-formyl-2,4-dimethyl-pyrrole-3-carboxylic acid ethyl ester (1.21 g, 74%) as a light yellow solid.

reactant | 2,4-Diethoxycarbonyl-3,5-dimethylpyrrole | 2.0 g | C(C)OC(=O)C=1NC(=C(C1C)C(=O)OCC)C | C12H17NO4
reactant | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-formyl-2,4-dimethyl-pyrrole-3-carboxylic acid ethyl ester | 1.21 g, 74% | C(C)OC(=O)C1=C(NC(=C1C)C=O)C | C10H13NO3
